US06576643B2
c) (±)-10,11-Dihydro-7-fluoro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid
According to the procedure of Example 6 (c), except substituting ethyl (±)-10,11-dihydro-7-fluoro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10 -acetate for the ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate, the title compound was obtained: MS (ES) m/e 421.1 (M+H)+. Anal. Calcd for C25H25FN2O3.0.5 H2O: C, 69.99; H, 6.10; N, 6.52. Found: C, 69.86; H, 5.90; N, 6.35.

reactant | ethyl (±)-10,11-dihydro-7-fluoro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10 -acetate | FC1=CC2=C(C(CC3=C(C2)C=C(C=C3)OCCCNC3=NC=CC=C3)CC(=O)OCC)C=C1 | C27H29FN2O3
reactant | ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C([C@H](C2)CC(=O)OCC)C=CC=C3)C1 | C27H30N2O3
product | (±)-10,11-Dihydro-7-fluoro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid | FC1=CC2=C(C(CC3=C(C2)C=C(C=C3)OCCCNC3=NC=CC=C3)CC(=O)O)C=C1 | C25H25FN2O3
